US06514971B1
A suspension of 4-chloro-6-methoxy-7-[(2-methylthiazol-4-yl)methoxy]cinnoline (150 mg, 0.46 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (78 mg, 0.56 mmol), (prepared as described for the starting material in Example 11), in 2-pentanol (3 ml) and a 5M solution of hydrogen chloride in isopropanol (105 μl) was heated at reflux for 90 minutes. The solid obtained was filtered off, washed with isopropanol followed by ether to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-[(2-methylthiazol-4-yl)methoxy]cinnoline hydrochloride as a pale yellow solid (190 mg, 82%).

reactant | 4-chloro-6-methoxy-7-[(2-methylthiazol-4-yl)methoxy]cinnoline | 0.46 mmol, 150 mg | ClC1=CN=NC2=CC(=C(C=C12)OC)OCC=1N=C(SC1)C | C14H12ClN3O2S
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 0.56 mmol, 78 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
reactant | hydrogen chloride | Cl | ClH
solvent | 2-pentanol | 3 ml | CC(CCC)O | C5H12O
solvent | isopropanol | 105 μl | C(C)(C)O | C3H8O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-[(2-methylthiazol-4-yl)methoxy]cinnoline hydrochloride | 190 mg, 82% | Cl.FC1=C(NC2=CN=NC3=CC(=C(C=C23)OC)OCC=2N=C(SC2)C)C=C(C(=C1)C)O | InChI=1S/C21H19FN4O3S.ClH/c1-11-4-15(22)17(6-19(11)27)25-18-8-23-26-16-7-21(20(28-3)5-14(16)18)29-9-13-10-30-12(2)24-13;/h4-8,10,27H,9H2,1-3H3,(H,25,26);1H
